US08431695B2
Preparation of 5-(2-Benzyl-2H-indazol-6-yl)-7-(3-cyclobutylaminomethyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-4-ylamine
Using a procedure similar to that of Example 111 with 7-(3-aminomethyl-phenyl)-5-(2-benzyl-2H-indazol-6-yl)-pyrrolo[2,1-f][1,2,4]triazin-4-ylamine and cyclobutanone as starting materials, 39 mg (17%) of the desired product was isolated. 1H NMR (300 MHz, DMSO-d6) δ 8.80 (s, 1 H), 8.05 (d, 2 H), 8.0 (s, 1 H), 7.90 (d, 1 H), 7.70 (s, 1 H), 7.60-7.40 (m, 7 H), 7.25 (d, 1 H), 7.20 (s, 1 H), 5.70 (s, 2 H), 3.80 (m, 2 H), 2.10 (m, 1 H), 2.00 (m, 2 H), 1.70-1.40 (m, 4 H); ES-MS m/z 500.2 [M+H]+, HPLC RT (min) 2.46.

reactant | 7-(3-aminomethyl-phenyl)-5-(2-benzyl-2H-indazol-6-yl)-pyrrolo[2,1-f][1,2,4]triazin-4-ylamine | NCC=1C=C(C=CC1)C1=CC(=C2C(=NC=NN21)N)C=2C=CC1=CN(N=C1C2)CC2=CC=CC=C2 | C27H23N7
reactant | cyclobutanone | C1(CCC1)=O | C4H6O
product | 5-(2-Benzyl-2H-indazol-6-yl)-7-(3-cyclobutylaminomethyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-4-ylamine | 39 mg, 17% | C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1)C=1C=C(N2N=CN=C(C21)N)C2=CC(=CC=C2)CNC2CCC2 | C31H29N7
